US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-( 1-methyl-2,2-dibromoethenyl)pyrazole
A solution of triphenylphosphine (0.94 g) and carbon tetrabromide (0.6 g) in anhydrous dichloromethane (30 ml) at 0° C. was stirred for 5 minutes. 4-Acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.25 g) was then added and the mixture was heated under reflux for 6 hours and then evaporated. The residue was purified by column chromatography on silica gel eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a pale pink solid, m.p. 119-122° C.

reactant | triphenylphosphine | 0.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.6 g | C(Br)(Br)(Br)Br | CBr4
reactant | 4-Acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.25 g | C(C)(=O)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H6Cl2F3N3O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-( 1-methyl-2,2-dibromoethenyl)pyrazole | C(#N)C1=NN(C=C1C(=C(Br)Br)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H6Br2Cl2F3N3
